US05464788
1-(2-Methoxy-4-(1-ethenylsulfonyl-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide (52 mg, 0.093 mmol) was dissolved in methanol (5 ml), treated with diethylamine (0.013 ml, 9.2 mg, 0.12 mmol), and stirred at ambient temperature under nitrogen for 18 hours. An additional 0.01 ml of diethylamine was added and the mixture stirred another 24 hours at ambient temperature. The reaction was concentrated in vacuo and the residue was chromatographed on silica gel eluted with 3% followed by 5%, then 7% methanol in methylene chloride. The combined product fractions were evaporated to dryness in vacuo to give 1-(2-methoxy-4-(1-(2-(N,N-diethylamino)-ethylsulfonyl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide: mp 70°-140° C.

reactant | 1-(2-Methoxy-4-(1-ethenylsulfonyl-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide | 0.093 mmol, 52 mg | COC1=C(C=CC(=C1)OC1CCN(CC1)S(=O)(=O)C=C)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C28H36N4O6S
reactant | diethylamine | 0.12 mmol, 0.013 ml, 9.2 mg | C(C)NCC | C4H11N
reactant | diethylamine | 0.01 ml | C(C)NCC | C4H11N
solvent | methanol | 5 ml | CO | CH4O
product | 1-(2-methoxy-4-(1-(2-(N,N-diethylamino)-ethylsulfonyl)-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide | COC1=C(C=CC(=C1)OC1CCN(CC1)S(=O)(=O)CCN(CC)CC)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C32H47N5O6S
